US06699904B2
A stirred solution of (4-bromo-phenyl)-acetic acid (0.186 mol, 40.0 g) and thionyl chloride (0.558 mol, 40.0 mL) in chloroform (500 mL) under a N2 atmosphere was heated under reflux for 20 hours. The mixture was cooled to room temperature and evaporated under vacuum to give an oil. This was dissolved in anhydrous methylene chloride (150 mL) and added dropwise to a solution of heptylamine (0.20 mol, 30.3 mL) and N,N-diisopropylethylamine (0.37 mol, 64.7 mL) in anhydrous methylene chloride cooled to 0° C. The mixture was stirred at room temperature for 45 minutes then poured into water and extracted with methylene chloride. The extract was washed with saturated brine, dried over anhydrous sodium sulfate and the solvent was removed under vacuum. The solid residue was purified by crystallization from ethyl acetate/hexanes to give 2-(4-bromo-phenyl)-N-heptyl-acetamide as a white solid. (37 g, 64%)

reactant | (4-bromo-phenyl)-acetic acid | 0.186 mol, 40.0 g | BrC1=CC=C(C=C1)CC(=O)O | C8H7BrO2
reactant | thionyl chloride | 0.558 mol, 40.0 mL | S(=O)(Cl)Cl | Cl2OS
reactant | heptylamine | 0.20 mol, 30.3 mL | C(CCCCCC)N | C7H17N
reactant | N,N-diisopropylethylamine | 0.37 mol, 64.7 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | chloroform | 500 mL | C(Cl)(Cl)Cl | CHCl3
solvent | methylene chloride | 150 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 2-(4-bromo-phenyl)-N-heptyl-acetamide | BrC1=CC=C(C=C1)CC(=O)NCCCCCCC | C15H22BrNO
